US07906654B2
Synthesis of 2-[(6-amino-2,3-difluorophenyl)amino]ethanol
To a solution of 2-[(2,3-difluoro-6-nitrophenyl)amino]ethanol (3.8 g, 17.4 mmol) in 70 ml of ethyl acetate and 30 ml of ethanol is added 10% Pd/C (380 mg). The reaction is shaken under 50 PSI of hydrogen for 3 hours. The pressure is periodically adjusted to 50 PSI. The reaction is filtered through celite, rinsed with ethanol and concentrated. The resulting material is used without further purification in the next step. 1H NMR (400 MHz, CDCl3) δ ppm 3.17-3.27 (m, 2H) 3.68-3.78 (m, 2H) 6.38 (ddd, J=8.89, 4.69, 2.05 Hz, 1H) 6.61-6.70 (m, 1H)

reactant | 2-[(2,3-difluoro-6-nitrophenyl)amino]ethanol | 17.4 mmol, 3.8 g | FC1=C(C(=CC=C1F)[N+](=O)[O-])NCCO | C8H8F2N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd/C | 380 mg | [Pd] | Pd
product | 2-[(6-amino-2,3-difluorophenyl)amino]ethanol | NC1=CC=C(C(=C1NCCO)F)F | C8H10F2N2O
